* Reference source-degenerated local-feedback differential amplifier.
* The resistors set the internal bias and closed-loop transconductance ratio.
.subckt gmr_degen IREF VCM VDD VIN VIP VON VOP VSS

* Preserve the declared reference-current port while the local loop uses VCM.
RIREF IREF VSS 1

XNM9 net7 net8 net5 VSS sky130_fd_pr__nfet_01v8 w=10 l=1 m=8
XNM5 net3 net8 VSS VSS sky130_fd_pr__nfet_01v8 w=10 l=1 m=10
XNM8 net2 net8 VSS VSS sky130_fd_pr__nfet_01v8 w=10 l=1 m=2
XNM2 net4 net8 VSS VSS sky130_fd_pr__nfet_01v8 w=10 l=1 m=2
XNM4 net1 net8 VSS VSS sky130_fd_pr__nfet_01v8 w=10 l=1 m=10
XPM4 net8 net9 VDD VDD sky130_fd_pr__pfet_01v8 w=10 l=1 m=2
XPM3 net9 net9 VDD VDD sky130_fd_pr__pfet_01v8 w=10 l=1 m=2
XPM2 net6 net6 VDD VDD sky130_fd_pr__pfet_01v8 w=10 l=1 m=2
XPM1 VON net6 VDD VDD sky130_fd_pr__pfet_01v8 w=10 l=1 m=10
XPM0 VOP net6 VDD VDD sky130_fd_pr__pfet_01v8 w=10 l=1 m=10
XNM7 net6 VCM net4 VSS sky130_fd_pr__nfet_01v8_lvt w=10 l=1 m=2
XNM6 net8 VCM net2 VSS sky130_fd_pr__nfet_01v8_lvt w=10 l=1 m=2
XNM3 net9 VCM net7 VSS sky130_fd_pr__nfet_01v8_lvt w=10 l=1 m=2
XNM1 VON VIN srcn VSS sky130_fd_pr__nfet_01v8_lvt w=10 l=1 m=16
XNM0 VOP VIP srcp VSS sky130_fd_pr__nfet_01v8_lvt w=10 l=1 m=16
RDEGN srcn net3 140
RDEGP srcp net1 140

R2 net1 net3 1.2k
R3 net5 VSS 1.5k
R1 VCM VON 2.3034k
R0 VOP VCM 2.3034k
.ends gmr_degen
