* 2.4 GHz inductively degenerated narrow-band cascode LNA.
.subckt inductive_lna vss iref vdd rfin rfout
* The forced 50 uA reference establishes the input-gate voltage.  A scaled
* NMOS/PMOS mirror feeds a two-device NMOS replica stack for cascode bias;
* the replica devices are each one tenth the cascode width.
XREF iref iref vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=7.2 nf=2
XNSINK pgate iref vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=4.8 nf=1
XPDIO pgate pgate vdd vdd sky130_fd_pr__pfet_01v8 l=0.50 w=24 nf=4
XPMIR vcas pgate vdd vdd sky130_fd_pr__pfet_01v8 l=0.50 w=24 nf=4
XCBOT vbias vbias vss vss sky130_fd_pr__nfet_01v8 l=0.15 w=32 nf=2
XCTOP vcas vcas vbias vss sky130_fd_pr__nfet_01v8 l=0.15 w=32 nf=2
XCBN iref vss sky130_fd_pr__cap_mim_m3_1 w=63.05 l=63.05 mf=1
XCBC vcas vss sky130_fd_pr__cap_mim_m3_1 w=44.53 l=44.53 mf=1

* CIN is a large RF coupling capacitor.  One complete 5.79 nH PDK spiral,
* together with the input-device capacitance, performs the gate match.
XCIN rfin nin sky130_fd_pr__cap_mim_m3_1 w=49.81 l=49.81 mf=1
XLG nin ng lgct vss sky130_fd_pr__ind_05_125
XRBIAS iref ng vss sky130_fd_pr__res_high_po w=0.69 l=434

* Common-source input device, one half of the official 1.521 nH spiral for
* 0.7605 nH source degeneration, and a common-gate cascode.
XIN nx ng ns vss sky130_fd_pr__nfet_01v8 l=0.15 w=480 nf=32
XLS ns lsopen vss vss sky130_fd_pr__ind_03_90
XCAS nd vcas nx vss sky130_fd_pr__nfet_01v8 l=0.15 w=320 nf=64

* One complete 5.79 nH PDK spiral is the resonant drain load.  The two
* capacitors transform its finite-Q impedance to the 50 ohm output port.
XLD vdd nd ldct vss sky130_fd_pr__ind_05_125
XCOUT nd rfout sky130_fd_pr__cap_mim_m3_1 w=17.79 l=17.79 mf=1
XCMATCH rfout vss sky130_fd_pr__cap_mim_m3_1 w=28.1 l=28.1 mf=1
.ends inductive_lna
